US04554279
The water washings of the crude 5-ethoxy-6-methoxy-8-nitroquinoline were acidified with acetic acid and basified with sodium bicarbonate to give 0.44 g of 5-hydroxy-6-methoxy-8-nitroquinoline.

reactant | water | O | H2O
reactant | 5-ethoxy-6-methoxy-8-nitroquinoline | C(C)OC1=C2C=CC=NC2=C(C=C1OC)[N+](=O)[O-] | C12H12N2O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-hydroxy-6-methoxy-8-nitroquinoline | 0.44 g | OC1=C2C=CC=NC2=C(C=C1OC)[N+](=O)[O-] | C10H8N2O4
